US07262196B2
3-Cyclopentyl-2-pyridin-3-yl-N-thiazol-2-ylpropionamide
Employing the protocol described in EXAMPLE 1, 3-cyclopentyl-2-pyridin-3-ylpropionic acid (Preparation 2, 0.96 g, 4.4 mmol) was condensed with thiazol-2-ylamine (0.88 g, 8.8 mmol) to give the title compound: RTA=3.05 min; m/z (ES+)=302.0 [M+H]+.

reactant | 3-cyclopentyl-2-pyridin-3-ylpropionic acid | 4.4 mmol, 0.96 g | C1(CCCC1)CC(C(=O)O)C=1C=NC=CC1 | C13H17NO2
reactant | thiazol-2-ylamine | 8.8 mmol, 0.88 g | S1C(=NC=C1)N | C3H4N2S
product | 3-Cyclopentyl-2-pyridin-3-yl-N-thiazol-2-ylpropionamide | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C=1C=NC=CC1 | C16H19N3OS
